US04935426
N-(3,3-dimethylcyclohexyl)-N'-(4-tert-butylcyclohexyl)-piperazine (Compound No. 162)
5.0 g (22.3 millimoles) of N-(4-tert-butylcyclohexyl)-piperazine, 5.4 g (44.6 millimoles) of 3,3-dimethylcyclohexanone, 1.7 g (12.3 millimoles) of zinc(II) chloride and 1.6 g (24.5 millimoles) of sodium cyanoborohydride are stirred for 48 hours at 20° C. The mixture is evaporated down under reduced pressure, the residue is hydrolyzed with 1N sodium hydroxide solution and the mixture is extracted with methyl tert-butyl ether. Working up the organic extract in the usual manner gives 3.7 g (50% of theory) of a product in the form of white crystals (mp. 90°-92° C.; for IR data, see Table 1b).

reactant | N-(4-tert-butylcyclohexyl)-piperazine | 22.3 millimoles, 5.0 g | C(C)(C)(C)C1CCC(CC1)N1CCNCC1 | C14H28N2
reactant | 3,3-dimethylcyclohexanone | 44.6 millimoles, 5.4 g | CC1(CC(CCC1)=O)C | C8H14O
reactant | sodium cyanoborohydride | 24.5 millimoles, 1.6 g | C(#N)[BH3-].[Na+]
catalyst | zinc(II) chloride | 12.3 millimoles, 1.7 g | [Cl-].[Zn+2].[Cl-]
product | N-(3,3-dimethylcyclohexyl)-N'-(4-tert-butylcyclohexyl)-piperazine | CC1(CC(CCC1)N1CCN(CC1)C1CCC(CC1)C(C)(C)C)C | C22H42N2
